US07576094B2
To a solution of 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1 ,2′-thiochromen]-4′(3′H)-one O-methyloxime, prepared as described above (50 mg) in 2 mL of BH3 1.0 M THF solution was added large excess of NaCNBH3 and 0.5 mL of acetic acid. The reaction mixture was allowed to stir for 5 days. The mixture was washed with water and extracted with ethyl acetate. After concentration in vacuo, the residue was purified by flash chromatography eluted with 20% ethyl acetate in hexane to give 5.4 mg of 4′-(methoxyamino)-5′,7′,8′-trimethyl-3′,4′-dihydrospiro[cyclobutane-1,2′-thiochromen]-6′-ol as a white paste.

reactant | 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1 ,2′-thiochromen]-4′(3′H)-one O-methyloxime | CON=C1CC2(SC3=C(C(=C(C(=C13)C)O)C)C)CCC2 | C16H21NO2S
reactant | THF | 1.0 M | C1CCOC1 | C4H8O
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 4′-(methoxyamino)-5′,7′,8′-trimethyl-3′,4′-dihydrospiro[cyclobutane-1,2′-thiochromen]-6′-ol | 5.4 mg | CONC1CC2(SC3=C(C(=C(C(=C13)C)O)C)C)CCC2 | C16H23NO2S
